resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.987607
R2 0 n2 1.004177
C3 0 n4 3.15e-06
R4 n1 n3 0.994364
R5 n1 n5 1.001475
R6 n2 n3 0.991079
R7 n2 n6 1.013391
R8 n3 n7 0.983684
R9 n4 n5 0.994299
R10 n4 n6 0.981603
R11 n5 n7 0.993163
R12 n6 n7 1.018405
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
